***************************************************************
* Comments for the user:
* The VBIC Model includes the self heating effect and the user can switch selfheating on or off.
* a) no self heating: set Rth = 0
* b) with self heating: set Rth=80K/W + Rth_PCB (customer)
* Note: Rth = 80 K/W includes only the thermal resistance of die and package and
* the thermal resistance of the customer PCB must be added (Rth=80K/W + Rth_PCB)

*   Infineon    Technologies    AG
*   VBIC    MODEL   IN  SPICE   2G6 SYNTAX
*   VALID   UP  TO  10  GHZ
*   >>> BFP780  <<<
*   (C) 2015    Infineon    Technologies    AG
*   Version 1.1 October 2015
***************************************************************
*.OPTION TNOM=25, GMIN= 1.00e-12
*BFP780 C B E1 E2
.SUBCKT BFP780 1 2 3 4
*
CCEPAR 11 33  800E-015
*
LEx    30 35 3E-011
LBx    20 2  3E-011
LCx    10 1  3E-011
*
CBPAD 22 44  30E-015
CCPAD 11 44  30E-015
CEPAD 33 44  30E-015
*
LB   22 20 777E-12
LC   10 11 777E-12
*
CBEPCK 20 30  5.703E-015
CBCPCK 10 20  1.497E-014
CCEPCK 10 30  6.032E-014
*
RE1 35 3 1E-03
RE2 35 4 1E-03
*
Rsub1 44 30 0.2144
Rps 44 33 0.07306
*
D1 33 22 Diode_fb
D2 44 22 Diode_fbd
*
.MODEL Diode_fb D(
+ IS=3.5E-015
+ N=1
+ CJO=10e-15
+ RS=6.1
+ Tnom=25)
*
.MODEL Diode_fbd D(
+ IS=1E-015
+ N=1
+ CJO=10E-15
+ RS=1
+ Tnom=25)
*
Q1 11 22 33 44 M_BFP780
*
.ENDS BFP780
.MODEL  M_BFP780    NPN (Level=4
+ Tnom=25
+ Cbeo=2.47E-012
+ Cje=561.3E-015
+ Pe=0.7
+ Me=0.333
+ Aje=-1
+ Wbe=1
+ Cbco=10E-015
+ Cjc=668.6E-015
+ Pc=0.54
+ Mc=0.333
+ Ajc=-1
+ Cjep=2.616E-015
+ Cjcp=900E-015
+ Ps=0.6
+ Ms=0.3
+ Ajs=-0.5
+ Fc=0.94
+ Vef=545.4
+ Ver=3.291
+ Is=2.3E-015
+ Nf=0.9855
+ Ibei=1.893E-018
+ Nei=0.9399
+ Iben=4.77E-015
+ Nen=1.361
+ Ikf=1
+ Nr=0.9912
+ Ibci=157.5E-018
+ Nci=1.1
+ Ibcn=4.929E-015
+ Ncn=1.463
+ Ikr=0.01178
+ Wsp=1
+ Isp=1E-015
+ Nfp=1
+ Ibcip=1E-015
+ Ncip=1.029
+ Ibcnp=1E-015
+ Ncnp=1
+ Ikp=1E-3
+ Ibeip=1E-015
+ Ibenp=1E-015
+ Re=0.15
+ Rcx=0.01
+ Rci=2.665
+ Qco=1E-015
+ Vo=0.0005022
+ Gamm=5.659E-012
+ Hrcf=0.21
+ Rbx=5
+ Rbi=1.964
+ Rbp=265.5
+ Rs=26.56
+ Avc1=3.97
+ Avc2=29.52
+ Tf=1.6E-012
+ Qtf=50E-3
+ Xtf=30
+ Vtf=0.7
+ Itf=1
+ Tr=1E-015
+ Td=500E-015
+ Cth=0
+ Rth=80
+ Ea=1.12
+ Eaie=1.12
+ Eaic=1.12
+ Eais=1
+ Eane=1.12
+ Eanc=1.12
+ Eans=1
+ Xre=0
+ Xrb=0
+ Xrc=0
+ Xrs=0
+ Xvo=0
+ Xis=-1.631
+ Xii=0
+ Xin=0
+ Tnf=0
+ Tavc=0.002613
+ Kfn=0
+ Afn=1
+ Bfn=1 )
***************************************************************
*
*.ENDS BFP780
***************************************************************
* Comments for the user:
* The VBIC Model includes the self heating effect and the user can switch selfheating on or off.
* a) no self heating: set Rth = 0
* b) with self heating: set Rth=20K/W + Rth_PCB (customer)
* Note: Rth = 20 K/W includes only the thermal resistance of die and package and
* the thermal resistance of the customer PCB must be added (Rth=20K/W + Rth_PCB)

*   Infineon    Technologies    AG
*   VBIC    MODEL
*   VALID   UP  TO  6   GHZ
*   >>> BFQ790  <<<
*   (C) 2015    Infineon    Technologies    AG
*   Version 1.0 Juni    2015
***************************************************************
*.OPTION TNOM=25, GMIN= 1.00e-12
*BFQ790 C B E

* without access to the external thermal node (Rth to be adjusted by the customer in the model parameter list for the transistor
.SUBCKT BFQ790 1 2 3
*
* with access to external thermal node
*.SUBCKT BFQ790 1 2 3 55
*
CCSPAR 11 44 1.375E-012
LEx    30 3 4.36882E-011
LBx    20 2 2.77681E-011
LCx    10 1 4.265E-011
CBEPCK 20 30  1.105E-013
CBCPCK 10 20  1E-014
CCEPCK 10 30  1E-015
LB   222 20 1.02449E-009
LC   10 11  1.89901E-009
*
RBL 222 22 45
CBL 222 22  3E-011
*
Rsub1 44 30 0.000500184
Rps 44 33 0.102733
*
*
* without access to the external thermal node
Q1 11 22 33 44 M_BFQ790
*
* with access to the thermal node
* Q1 11 22 33 44 55 M_BFQ790
*
.MODEL  M_BFQ790 NPN Level=4(
+ Tnom=25
+ Cbeo=9.31E-012
+ Cje=7.693E-013
+ Pe=0.5892
+ Me=0.3115
+ Aje=-0.5
+ Wbe=1
+ Cbco=1.966E-013
+ Cjc=1E-015
+ Pc=0.5095
+ Mc=0.2797
+ Ajc=-0.5
+ Cjep=1.875E-012
+ Cjcp=2.067E-012
+ Ps=0.5086
+ Ms=0.2865
+ Ajs=-0.5
+ Fc=0.93
+ Vef=615.1
+ Ver=5.61838
+ Is=9.704E-015
+ Nf=1.001
+ Ibei=5E-017
+ Nei=1.013
+ Iben=3.609E-014
+ Nen=1.46
+ Ikf=2
+ Nr=0.9958
+ Ibci=1.001E-017
+ Nci=1.015
+ Ibcn=2.918E-014
+ Ncn=1.399
+ Ikr=0.2301
+ Wsp=1
+ Isp=1E-015
+ Nfp=1
+ Ibcip=2E-017
+ Ncip=1
+ Ibcnp=1.7E-015
+ Ncnp=1.67
+ Ikp=0.0002
+ Ibeip=7E-017
+ Ibenp=2.4E-014
+ Re=0.2
+ Rcx=0.02559
+ Rci=1.168
+ Qco=4E-015
+ Vo=0.4234
+ Gamm=2.199E-012
+ Hrcf=0.1907
+ Rbx=0.2825
+ Rbi=1.868
+ Rbp=0.001
+ Rs=10
+ Avc1=1
+ Avc2=25.84
+ Tf=3E-012
+ Qtf=0.6758
+ Xtf=0.01293
+ Vtf=0.5
+ Itf=0.1948
+ Tr=1E-015
+ Td=1E-015
+ Cth=0
+ Rth=20.05
+ Ea=1.12
+ Eaie=1.12
+ Eaic=1.12
+ Eais=1.12
+ Eane=1.12
+ Eanc=1.12
+ Eans=1.12
+ Xre=0
+ Xrb=0
+ Xrc=0
+ Xrs=0
+ Xvo=0
+ Xis=1.907
+ Xii=4.963
+ Xin=-2.837
+ Tnf=1E-006
+ Tavc=0.006705
+ Kfn=0
+ Afn=1
+ Bfn=1 )
***************************************************************
*
.ENDS BFQ790
